US06136823
Synthesis of Ethyl 8-Chloro-6,7-difluoro-1-(4-fluoro-3-methoxyphenyl)-4-oxo-1,4-dihydroquinoline-3-carboxylate
4-Fluoro-3-methoxyaniline (1.4 g) was added to a chloroform solution (10 ml) with ethyl 3-ethoxy-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate synthesized from ethyl 3-chloro-2,4,5-trifluorobenzoylacetate (2.8 g) in accordance with a method known per se in the art dissolved therein. The reaction mixture was concentrated under reduced pressure, and anhydrous potassium carbonate (2.7 g) and N,N-dimethylformamide (6 ml) were added to the residue, followed by stirring at 90° C. for 15 minutes. The reaction mixture was allowed to cool, and chloroform (80 ml) and distilled water (300 ml) were added to the reaction mixture, thereby conducting liquid separation. A chloroform layer was washed twice with distilled water (300 ml), dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. Deposits were dispersed in ethanol, collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain the title compound (2.98 g) as a colorless powder.

reactant | 4-Fluoro-3-methoxyaniline | 1.4 g | FC1=C(C=C(N)C=C1)OC | C7H8FNO
reactant | ethyl 3-ethoxy-2-(3-chloro-2,4,5-trifluorobenzoyl)acrylate | C(C)OC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)Cl)F)=O | C14H12ClF3O4
reactant | ethyl 3-chloro-2,4,5-trifluorobenzoylacetate | 2.8 g | ClC=1C(=C(C(=O)CC(=O)OCC)C=C(C1F)F)F | C11H8ClF3O3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 8-Chloro-6,7-difluoro-1-(4-fluoro-3-methoxyphenyl)-4-oxo-1,4-dihydroquinoline-3-carboxylate | 2.98 g | ClC=1C(=C(C=C2C(C(=CN(C12)C1=CC(=C(C=C1)F)OC)C(=O)OCC)=O)F)F | C19H13ClF3NO4
